US08487108B2
The (S)-tert-butyl 4-(3-methoxy-3-oxopropyl)-2,2-dimethyloxazolidine-3-carboxylate (1.02 g, 3.55 mmol, 1.0 equiv) was dissolved in 50 mL of THF and cooled to −10° C. A 1.0 M solution of BrMg(CH2)4MgBr (7.1 mL, 2.0 equiv) was added and the mixture stirred for 2 h. After this time a second portion of BrMg(CH2)4MgBr was added and the mixture stirred for 1 h. The mixture was quenched by addition of saturated NH4Cl and the mixture transferred to a separatory funnel, and the organic layer was washed with brine, then dried over Na2SO4, filtered, and evaporated to provide crude (S)-tert-butyl 4-(2-(1-hydroxycyclopentyl)ethyl)-2,2-dimethyloxazolidine-3-carboxylate.

reactant | (S)-tert-butyl 4-(3-methoxy-3-oxopropyl)-2,2-dimethyloxazolidine-3-carboxylate | 3.55 mmol, 1.02 g, 1.0 equiv | COC(CC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)=O | C14H25NO5
reactant | BrMg(CH2)4MgBr | 7.1 mL, 2.0 equiv | [Mg](Br)CCCC[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-(2-(1-hydroxycyclopentyl)ethyl)-2,2-dimethyloxazolidine-3-carboxylate | OC1(CCCC1)CC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C17H31NO4
